US07592463B2
(1R, 2R, 7R, 8R)-Tricyclo[6.2.1.0˜2,7˜]undec-9-en-3-one (Table 4, Entry 2):
Prepared according to general procedure A from 2-cyclohexen-1-one (58 μL, 0.60 mmol), cyclopentadiene (74 μL, 0.90 mmol), 70% aqueous perchloric acid (10.3 μL, 0.12 mmol), and (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one (32.4 mg, 0.15 mmol) in water (150 μL) for 17 hours at 0° C. Purification by silica gel chromatography (5:1 pentane:ether) provided the title compound as a colorless oil in 81% yield (79 mg, 0.49 mmol); 12:1 endo:exo, endo 63% ee. For the purposes of characterization, the endo isomer was separated from the exo isomer by silica gel chromatography. IR (film) 3061, 2961, 2935, 2867, 1701, 1570, 1453, 1406, 1358, 1337, 1315, 1236, 1172, 1115, 1018, 910.6, 823.8, 779.2, 733.6, 561.5 cm−1; 1H NMR (300 MHz, CDCl3) δ 6.15 (dd, J=5.7, 3.0 Hz, 1H, CH═CH), 5.99 (dd, J=5.7, 3.0 Hz, 1H, CH═CH), 3.24 (m, 1H, CHCH═CH), 2.85 (m, 1H, CHCH═CH), 2.66 (m, 2H, CH(H)CO and CHCO), 2.30 (m, 1H, one of CH2CO), 1.79 (m, 4H, CHCHCH2, COCH2CH2 and one of CHCHCH2), 1.42 (ddd, J=8.4, 1.8, 1.8 Hz, 1H, one of CHCH2CH), 1.28 (m, 1H, one of CHCH2CH), 0.73 (m, 1H, one of CHCHCH2); 13C NMR (75 MHz, CDCl3) δ215.7, 137.8, 135.1, 52.0, 48.7, 46.8, 45.5, 41.7, 39.7, 28.4, 22.2; HRMS (CI) exact mass calc'd for (C11H14O) requires m/z 162.1045, found m/z 162.1049. [α]D=+120.6 (c=1.0, CHCl3). Product ratios were determined by GLC analysis (130° C., 23 psi); (1R, 2R, 7R, 8R) endo isomer tr=13.4 min, and (1S, 2S, 7S, 8S) endo isomer tr=13.2 min, exo isomers tr=11.7, 12.3 min.

reactant | 2-cyclohexen-1-one | 0.60 mmol, 58 μL | C1(C=CCCC1)=O | C6H8O
reactant | cyclopentadiene | 0.90 mmol, 74 μL | C1=CC=CC1 | C5H6
reactant | perchloric acid | 0.12 mmol, 10.3 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one | 0.15 mmol, 32.4 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C=1OC(=CC1)C)C)=O | C16H18N2O2
solvent | water | 150 μL | O | H2O
product | (1R, 2R, 7R, 8R)-Tricyclo[6.2.1.0˜2,7˜]undec-9-en-3-one | 81% yield | [C@H]12[C@H]3C(CCC[C@@H]3[C@@H](C=C1)C2)=O | C11H14O
